### PR TITLE
Add kl_compProd and relevant lemmas, update blueprint, refactor some variables

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add the statement and proof of kl_compProd, which is the chain rule for conditional KL divergence, add some lemmas useful to prove it in separate files, update the blueprint. Change the notation of some variables, in particular make sure that the variables in \alpha are called 'a' and not 'x' for consistency.

### CODE REVIEW

File: TestingLowerBounds/KullbackLeibler.lean [hunk 1]
```diff
@@ -154,4 +154,29 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
...
+  then ((μ[fun x ↦ (kl (κ x) (η x)).toReal] : ℝ) : EReal)
+  else ⊤
+
+noncomputable
+def cond_kl' (κ η : kernel α β) (μ : Measure α) : EReal :=
+  condFDiv (fun x ↦ x * log x) κ η μ
+
+--TODO: is this name correct?
+lemma kl_chain_rule_kernel (κ η : kernel α β) (μ : Measure α) :
+    kl (μ ⊗ₘ κ) (μ ⊗ₘ η) = kl μ ν + cond_kl κ η μ := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
lemma kl_chain_rule_kernel (κ η : kernel α β) (μ ν : Measure α) :
    kl (μ ⊗ₘ κ) (ν ⊗ₘ η) = kl μ ν + cond_kl κ η μ := by
```

Comment (RemyDegenne) [reply TestingLowerBounds/KullbackLeibler.lean]: Perhaps `kl_compProd` for the name?

File: TestingLowerBounds/KullbackLeibler.lean [hunk 2]
```diff
@@ -154,4 +154,29 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
...
 
+section Conditional
+
+variable {β : Type*} {mβ : MeasurableSpace β}
+
+open Classical in
+
+-- TODO: choose the right definition between the following two
+noncomputable
+def cond_kl (κ η : kernel α β) (μ : Measure α) : EReal :=
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: The names of definitions should be camel case (and let's capitalize kl into KL rather than Kl):
```suggestion
def condKL (κ η : kernel α β) (μ : Measure α) : EReal :=
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 3]
```diff
@@ -152,6 +163,421 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
...
+    · rw [← llr_def]
+      exact hμν
+    · simp_rw [← llr_def]
+      exact hκη_int
+
+-- TODO : put the next 4 lemmas in the right place, maybe in the Integrable namespace, this should probably be PRed to Mathlib.
+lemma integrable_add_const_iff [NormedAddCommGroup β] [IsFiniteMeasure μ] {f : α → β} {c : β} :
+    Integrable f μ ↔ Integrable (fun x ↦ f x + c) μ := by
+  refine ⟨fun h ↦ Integrable.add h (integrable_const _), fun h ↦ show f = fun x ↦ f x + c + (-c)
+    by simp only [add_neg_cancel_right] ▸ Integrable.add h (integrable_const _)⟩
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
    Integrable f μ ↔ Integrable (fun x ↦ f x + c) μ :=
  ⟨fun h ↦ h.add (integrable_const _), fun h ↦ show f = fun x ↦ f x + c + (-c)
    by simp only [add_neg_cancel_right] ▸ h.add (integrable_const _)⟩
```

**Comment by RemyDegenne** [comment]
Can you merge the main repository into this branch, to reduce the diff?

File: TestingLowerBounds/ForMathlib/L1Space.lean [hunk 4]
```diff
@@ -0,0 +1,38 @@
...
+
+@[simp]
+lemma integrable_const_add_iff [IsFiniteMeasure μ] {f : α → β} {c : β} :
+    Integrable (fun x ↦ c + f x) μ ↔ Integrable f μ :=
+  ⟨fun h ↦ show f = fun x ↦ (c + f x) + (-c)
+    by simp only [add_neg_cancel_comm] ▸ Integrable.add h (integrable_const (-c)),
+    fun h ↦ Integrable.add (integrable_const _) h⟩
+
+@[simp]
+lemma integrable_add_integrable_iff [IsFiniteMeasure μ] {f g : α → β}
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/L1Space.lean]: Suggested name: `integrable_add_iff_integrable_right` and `..._left` for the other one.

Why do you need `IsFiniteMeasure`?

File: TestingLowerBounds/ForMathlib/L1Space.lean [hunk 5]
```diff
@@ -0,0 +1,38 @@
...
+    (hf : Integrable f μ) : Integrable (f + g) μ ↔ Integrable g μ :=
+  ⟨fun h ↦ show g = f + g + (-f)
+    by simp only [add_neg_cancel_comm] ▸ Integrable.add h (Integrable.neg hf),
+    fun h ↦ Integrable.add hf h⟩
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/L1Space.lean]:
```suggestion
    by simp only [add_neg_cancel_comm] ▸ h.add hf.neg,
    fun h ↦ hf.add h⟩
```

File: TestingLowerBounds/ForMathlib/LogLikelihoodRatioCompProd.lean [hunk 6]
```diff
@@ -0,0 +1,150 @@
...
+import Mathlib.MeasureTheory.Measure.LogLikelihoodRatio
+import TestingLowerBounds.FDiv.CondFDiv
+import Mathlib.Analysis.SpecialFunctions.Log.NegMulLog
+import TestingLowerBounds.ForMathlib.L1Space
+
+open Real MeasureTheory MeasurableSpace
+
+namespace ProbabilityTheory
+
+variable {α : Type*} {β : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace β}
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/LogLikelihoodRatioCompProd.lean]:
```suggestion
variable {α β : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace β}
```

File: TestingLowerBounds/ForMathlib/RnDeriv.lean [hunk 7]
```diff
@@ -306,6 +306,25 @@ lemma ae_rnDeriv_ne_zero_imp_of_ae [SigmaFinite μ] [SigmaFinite ν] {p : α →
   refine ae_rnDeriv_ne_zero_imp_of_ae_aux ?_ (withDensity_absolutelyContinuous _ _)
   exact (Measure.absolutelyContinuous_of_le (μ.withDensity_rnDeriv_le ν)) h
 
+lemma ae_int_mul_rnDeriv_of_ae_int {κ : α → Measure β} [SigmaFinite μ] [SigmaFinite ν] (g : α → β → ℝ)
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/RnDeriv.lean]:
```suggestion
lemma ae_integrable_mul_rnDeriv_of_ae_integrable {κ : α → Measure β} [SigmaFinite μ] [SigmaFinite ν] (g : α → β → ℝ)
```

File: TestingLowerBounds/ForMathlib/RnDeriv.lean [hunk 8]
```diff
@@ -306,6 +306,25 @@ lemma ae_rnDeriv_ne_zero_imp_of_ae [SigmaFinite μ] [SigmaFinite ν] {p : α →
...
+    ∀ᵐ a ∂ν, Integrable (fun x ↦ (μ.rnDeriv ν a).toReal * g a x) (κ a) := by
+  apply @Measure.ae_rnDeriv_ne_zero_imp_of_ae _ _ _ ν at h
+  filter_upwards [h] with a ha
+  by_cases h_zero : μ.rnDeriv ν a = 0
+  · rw [h_zero]
+    simp only [ENNReal.zero_toReal, zero_mul, integrable_zero]
+  · apply Integrable.const_mul
+    exact ha h_zero
+
+lemma ae_int_of_ae_int_mul_rnDeriv {κ : α → Measure β} [SigmaFinite μ] [SigmaFinite ν] (hμν : μ ≪ ν) (g : α → β → ℝ)
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/RnDeriv.lean]:
```suggestion
lemma ae_integrable_of_ae_integrable_mul_rnDeriv {κ : α → Measure β} [SigmaFinite μ] [SigmaFinite ν] (hμν : μ ≪ ν) (g : α → β → ℝ)
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 9]
```diff
@@ -110,7 +112,7 @@ lemma kl_ge_mul_log' [IsFiniteMeasure μ] [IsProbabilityMeasure ν]
   (le_fDiv_of_ac Real.convexOn_mul_log Real.continuous_mul_log.continuousOn hμν).trans_eq
     kl_eq_fDiv.symm
 
-lemma kl_ge_mul_log (μ ν : Measure α) [IsFiniteMeasure μ] [IsFiniteMeasure ν] :
+lemma kl_ge_mul_log [IsFiniteMeasure μ] [IsFiniteMeasure ν] :
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: I would keep explicit measures here.

File: TestingLowerBounds/KullbackLeibler.lean [hunk 10]
```diff
@@ -178,38 +190,38 @@ It is defined as KL(κ, η | μ) := ∫ x, KL(κ x, η x) dμ.
...
 
 @[simp]
 lemma condKL_of_not_ae_ac (h : ¬ ∀ᵐ x ∂μ, κ x ≪ η x) :
     condKL κ η μ = ⊤ := by
   apply condKL_of_not_ae_ne_top
   contrapose! h
-  filter_upwards [h] with x hx
-  contrapose! hx
-  simp only [hx, not_false_eq_true, kl_of_not_ac]
+  filter_upwards [h] with x ha
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
  filter_upwards [h] with a ha
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 11]
```diff
@@ -260,20 +271,136 @@ lemma condKL_nonneg (κ η : kernel α β) [IsMarkovKernel κ] [IsMarkovKernel 
...
-    (κ η : kernel α β) [IsMarkovKernel κ] [IsFiniteKernel η] :
+lemma kl_compProd_left [CountablyGenerated β] [IsFiniteMeasure μ] [IsMarkovKernel κ]
+    [IsFiniteKernel η] :
     kl (μ ⊗ₘ κ) (μ ⊗ₘ η) = condKL κ η μ := by
   rw [kl_eq_fDiv, condKL_eq_condFDiv]
   exact fDiv_compProd_left μ κ η (by measurability) Real.convexOn_mul_log
 
-lemma kl_compProd_right [MeasurableSpace.CountablyGenerated β] (μ ν : Measure α) [IsFiniteMeasure μ]
-    [IsFiniteMeasure ν] (κ : kernel α β) [IsMarkovKernel κ] :
+lemma kl_compProd_right [CountablyGenerated β] [IsFiniteMeasure μ] [IsFiniteMeasure ν]
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: kappa should be explicit

File: TestingLowerBounds/KullbackLeibler.lean [hunk 12]
```diff
@@ -260,20 +271,136 @@ lemma condKL_nonneg (κ η : kernel α β) [IsMarkovKernel κ] [IsMarkovKernel 
...
+    [IsMarkovKernel κ] :
     kl (μ ⊗ₘ κ) (ν ⊗ₘ κ) = kl μ ν := by
   rw [kl_eq_fDiv, kl_eq_fDiv]
   exact fDiv_compProd_right μ ν κ (by measurability) Real.convexOn_mul_log
 
+-- TODO : the name of this lemma in the blueprint is kl_chain_rule, is it ok to keep it like this in lean or should we change one of the two names?
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: You could change the one in the blueprint.

File: TestingLowerBounds/KullbackLeibler.lean [hunk 13]
```diff
@@ -260,20 +271,136 @@ lemma condKL_nonneg (κ η : kernel α β) [IsMarkovKernel κ] [IsMarkovKernel 
...
+      by_cases h : Integrable (llr (κ a) (η a)) (κ a)
+      · suffices hh : kl (κ a) (η a) = ∫ x, llr (κ a) (η a) x ∂(κ a) from by simp [hh]
+        exact kl_of_ac_of_integrable (ha) h
+      · rw [kl_of_not_integrable h]
+        simp only [h, not_false_eq_true, integral_undef, EReal.toReal_top]
 
 end Conditional
 
 end ProbabilityTheory
+-- TODO : update the blueprint and put the lemmas in the relevant files, if necessary create some files and put them in the ForMathlib folder, after having done this change branch so that this one is dedicated to the PR
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: Is that TODO done already?

File: blueprint/src/sections/kl_divergence.tex [hunk 14]
```diff
@@ -132,20 +132,72 @@ \section{Properties inherited from f-divergences}
...
-  %\leanok
+  \lean{ProbabilityTheory.kl_compProd}
+  \leanok
   \uses{def:KL, def:condKL}
-  Let $\mu, \nu$ be two measures on $\mathcal X$ and $\kappa, \eta : \mathcal X \rightsquigarrow \mathcal Y$ two Markov kernels.
+  Let $\mu, \nu$ be two finite measures on $\mathcal X$ and $\kappa, \eta : \mathcal X \rightsquigarrow \mathcal Y$ two Markov kernels.
   Then $\KL(\mu \otimes \kappa, \nu \otimes \eta) = \KL(\mu, \nu) + \KL(\kappa, \eta \mid \mu)$.
 \end{theorem}
 
+
```
Comment (RemyDegenne) [inline blueprint/src/sections/kl_divergence.tex]:
```suggestion
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 15]
```diff
@@ -3,9 +3,14 @@ Copyright (c) 2024 Rémy Degenne. All rights reserved.
...
 Authors: Rémy Degenne
 -/
+-- theorem foo (n : Nat) : 0 ≤ n := by exact? -- trick to make exact? work TODO : erase this when we are done
+
 import Mathlib.MeasureTheory.Measure.LogLikelihoodRatio
 import TestingLowerBounds.FDiv.CondFDiv
 import Mathlib.Analysis.SpecialFunctions.Log.NegMulLog
+import TestingLowerBounds.ForMathlib.L1Space
+import TestingLowerBounds.ForMathlib.LogLikelihoodRatioCompProd
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean:13]:
```suggestion
```

**Review by RemyDegenne — APPROVED** [review]
